US05254558
2-[6-Oxo-2-phenyl-5-[3-(3-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide was subjected to conditions similar to those described in Example 1. Chromatography, with methanol:dichloromethane (5.95) as the eluent, gave 2-[6-oxo-2-phenyl-5-[3-(3-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide as a white solid; NMR (DMSO/D2O): 8.60 (s,1), 8.42 (m,3), 7.71 (m,1), 7.47 (m,5), 4.58 (d,1), 4.39 (d,1), 4.31 (s,2), 2.20 (m,1), 0.83 (d,3), 0.77 (d,3).

reactant | 2-[6-Oxo-2-phenyl-5-[3-(3-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)O)C(C)C)C1=CC=CC=C1)NC(=O)NCC=1C=NC=CC1 | C25H27F3N6O4
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[6-oxo-2-phenyl-5-[3-(3-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1)NC(=O)NCC=1C=NC=CC1 | C25H25F3N6O4
